US09278950B2
Step 2. 4-Chloro-6,7-dihydro-5H-cyclopenta[b]pyridine
6,7-Dihydro-5H-cyclopenta[b]pyridine 1-oxide (2.5 g, 18 mmol) was mixed with phosphoryl chloride (20 mL, 200 mmol). The reaction mixture was stirred at 120° C. for 3 h. The excess POCl3 was removed under reduced pressure. The residue was diluted in 80 mL of EtOAc and neutralized with Na2CO3 solution. After filtration, the aqueous layer was extracted with EtOAc twice. The combined organic extracts were dried, filtered and concentrated under reduced pressure to give the sub-title compound (2.6 g, 93%). LCMS calc. for C8H9ClN (M+H)+: m/z=154.2. Found: 154.3.

reactant | 6,7-Dihydro-5H-cyclopenta[b]pyridine 1-oxide | 18 mmol, 2.5 g | [N+]1(=C2C(=CC=C1)CCC2)[O-] | C8H9NO
reactant | phosphoryl chloride | 200 mmol, 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6,7-dihydro-5H-cyclopenta[b]pyridine | 2.6 g, 93% | ClC1=C2C(=NC=C1)CCC2 | C8H8ClN
